* Project Shellac AE-064
* Audio-Technica AT-VM95SP controlled behavioural cartridge source.
* Interface: P N DRIVE
* DRIVE is an ideal generated EMF referenced to N; the cartridge remains a
* floating two-terminal source at P/N.  Series impedance is 485 ohm + 550 mH.
.SUBCKT SHELLAC_AT_VM95SP P N DRIVE
EGEN NGEN N DRIVE N 1
RCOIL NGEN NRL 485
LCOIL NRL P 550m
.ENDS SHELLAC_AT_VM95SP
