* Project Shellac AE-064
* Grado Prestige 78C controlled behavioural cartridge source.
* Interface: P N DRIVE
* DRIVE is an ideal generated EMF referenced to N; the cartridge remains a
* floating two-terminal source at P/N.  Series impedance is 475 ohm + 45 mH.
.SUBCKT SHELLAC_GRADO_78C P N DRIVE
EGEN NGEN N DRIVE N 1
RCOIL NGEN NRL 475
LCOIL NRL P 45m
.ENDS SHELLAC_GRADO_78C
