* Project Shellac AE-064
* Grado Gold / 8MZ compatibility behavioural cartridge source.
* Non-gating compatibility model controlled from AE-037 values.
* Interface: P N DRIVE
.SUBCKT SHELLAC_GRADO_GOLD_8MZ P N DRIVE
EGEN NGEN N DRIVE N 1
RCOIL NGEN NRL 660
LCOIL NRL P 50m
.ENDS SHELLAC_GRADO_GOLD_8MZ
