* Project Shellac AE-065 selected-next integrated candidate model.
* RUN00 fidelity: topology-faithful nominal/DC structural implementation.
* NOT manufacturing authority; does not migrate the product generator.

.SUBCKT SHELLAC_SCH101 INP INM OUT VPLUS VMINUS ZERO CHASSIS
RINP INP INP_F 100
RINM INM INM_F 100
RLP INP_F ZERO 23.7k
RLM INM_F ZERO 23.7k
CCMP INP_F CHASSIS 47p
CCMM INM_F CHASSIS 47p
XGP INP_F FBP VPLUS VMINUS GP_OUT SHELLAC_OPA1656
RGP FBP ZERO 1k
RFP GP_OUT FBP 999
XGM INM_F FBM VPLUS VMINUS GM_OUT SHELLAC_OPA1656
RGM FBM ZERO 1k
RFM GM_OUT FBM 999
XRN MSUM GM_OUT GP_OUT PSUM ZERO PSUM MSUM OUT NC101 SHELLAC_LT5400_7
XCV PSUM MSUM VPLUS VMINUS OUT SHELLAC_OPA1656
.ENDS SHELLAC_SCH101

.SUBCKT SHELLAC_SCH103_RIAA IN LFOUT OUT VPLUS VMINUS ZERO
XLF IN LFFB VPLUS VMINUS LFOUT SHELLAC_OPA1612
RLF_F LFOUT LFFB 100k
RLF_G LFFB ZERO 2.70k
RRIAA LFOUT RIAA_C 8.20k
CRIAA RIAA_C LFFB 29.4n
RTREB LFOUT TREB 750
CTREB TREB ZERO 100n
XREC TREB RECFB VPLUS VMINUS OUT SHELLAC_OPA1612
RREC_F OUT RECFB 11k
RREC_G RECFB ZERO 10k
.ENDS SHELLAC_SCH103_RIAA

.SUBCKT SHELLAC_DR039_SCH107 IN FILTEROUT BYPASSOUT SELECTED VPLUS VMINUS ZERO
* AE-052 explicit direct-branch DC block.
CDIRECT IN BYPASSOUT 1u
RDIRECT BYPASSOUT ZERO 330k

* Existing SCH107 Section A: C1=C2=470n, R1=20.8k, R2=24.3k.
C1 IN A1 470n
C2 A1 B1 470n
R1 A1 HP1_OUT 20.8k
R2 B1 ZERO 24.3k
XHP1 B1 HP1_OUT VPLUS VMINUS HP1_OUT SHELLAC_OPA1656

* Existing SCH107 Section B: C1=C2=470n, R1=8.66k, R2=59.0k.
C3 HP1_OUT A2 470n
C4 A2 B2 470n
R3 A2 FILTEROUT 8.66k
R4 B2 ZERO 59k
XHP2 B2 FILTEROUT VPLUS VMINUS FILTEROUT SHELLAC_OPA1656

* Nominal RUN00 uses RUMBLE=BYPASS.
VSEL SELECTED BYPASSOUT 0
.ENDS SHELLAC_DR039_SCH107

.SUBCKT SHELLAC_SCH104 IN DIRECT_OUT MONO_LEG VPLUS VMINUS ZERO
XBUF IN BUF VPLUS VMINUS BUF SHELLAC_OPA1656
RISO BUF DIRECT_OUT 100
RMONO BUF MONO_LEG 4.7k
.ENDS SHELLAC_SCH104

.SUBCKT SHELLAC_SCH105_MATRIX_STEREO LIN RIN MONOAVG MONORLEG LSEL RSEL ZERO
* AE-041 A1 nominal STEREO state. Pole C remains open.
VLA LSEL LIN 0
VRB RSEL RIN 0
RRET_L LSEL ZERO 2.2Meg
RRET_R RSEL ZERO 2.2Meg
.ENDS SHELLAC_SCH105_MATRIX_STEREO

.SUBCKT SHELLAC_SCH105_BUFFER IN OUT VPLUS VMINUS ZERO
XBUF IN BUF VPLUS VMINUS BUF SHELLAC_OPA1656
RISO BUF OUT 100
.ENDS SHELLAC_SCH105_BUFFER

.SUBCKT SHELLAC_SW905_RUN IN OUT ZERO
VSW OUT IN 0
.ENDS SHELLAC_SW905_RUN

.SUBCKT SHELLAC_SCH108 IN XLRP XLRM VPLUS VMINUS ZERO CHASSIS
XDRV OUTM SNSM ZERO IN VMINUS VPLUS SNSP OUTP SHELLAC_THAT1646
CSP OUTP SNSP 10u
CSM OUTM SNSM 10u
* Numerical leakage only; not a product BOM item.
RSP OUTP SNSP 1G
RSM OUTM SNSM 1G
* DC-equivalent ferrite connection for RUN00 only.
RFBP OUTP XLRP 0.05
RFBM OUTM XLRM 0.05
CRFIP XLRP CHASSIS 100p
CRFIM XLRM CHASSIS 100p
DHP XLRP VPLUS s1g
DHM XLRM VPLUS s1g
DLP VMINUS XLRP s1g
DLM VMINUS XLRM s1g
.ENDS SHELLAC_SCH108
