* Project Shellac AE-067 RUN04 qualification-only LF trade model.
* NOT product-generator authority.

.SUBCKT AE067_SCH107 IN OUT VPLUS VMINUS ZERO PARAMS: SCALE=1
C1 IN A1 {470n/SCALE}
C2 A1 B1 {470n/SCALE}
R1 A1 HP1_OUT {20.8k*SCALE}
R2 B1 ZERO {24.3k*SCALE}
XHP1 B1 HP1_OUT VPLUS VMINUS HP1_OUT SHELLAC_OPA1656

C3 HP1_OUT A2 {470n/SCALE}
C4 A2 B2 {470n/SCALE}
R3 A2 OUT {8.66k*SCALE}
R4 B2 ZERO {59k*SCALE}
XHP2 B2 OUT VPLUS VMINUS OUT SHELLAC_OPA1656
.ENDS AE067_SCH107

.SUBCKT AE067_CURRENT_COMMON IN DIRECT FILTER VPLUS VMINUS ZERO
CBLOCK IN SPLIT 1u
RBLOCK SPLIT ZERO 330k
VDIRECT DIRECT SPLIT 0
XHP SPLIT FILTER VPLUS VMINUS ZERO AE067_SCH107 PARAMS: SCALE=1
.ENDS AE067_CURRENT_COMMON

.SUBCKT AE067_BRANCH_LOCAL IN DIRECT FILTER VPLUS VMINUS ZERO
CDIRECT IN DIRECT 1u
RDIRECT DIRECT ZERO 330k
XHP IN FILTER VPLUS VMINUS ZERO AE067_SCH107 PARAMS: SCALE=1
.ENDS AE067_BRANCH_LOCAL

.SUBCKT AE067_SCALE10_COMMON IN DIRECT FILTER VPLUS VMINUS ZERO
CBLOCK IN SPLIT 1.2u
RBLOCK SPLIT ZERO 330k
VDIRECT DIRECT SPLIT 0
XHP SPLIT FILTER VPLUS VMINUS ZERO AE067_SCH107 PARAMS: SCALE=10
.ENDS AE067_SCALE10_COMMON

* Static path-equivalent model for POST_SWITCH_COMMON.
* Two blocks are instantiated only so direct and filter transfer/noise can be
* measured concurrently. The switching transient uses one physical common block.
.SUBCKT AE067_POST_STATIC IN DIRECT FILTER VPLUS VMINUS ZERO
XHP IN FILTER_RAW VPLUS VMINUS ZERO AE067_SCH107 PARAMS: SCALE=1
CDIRECT IN DIRECT 1u
RDIRECT DIRECT ZERO 330k
CFILTER FILTER_RAW FILTER 1u
RFILTER FILTER ZERO 330k
.ENDS AE067_POST_STATIC

.SUBCKT AE067_POST_RAW IN DIRECT_RAW FILTER_RAW VPLUS VMINUS ZERO
VDIRECT DIRECT_RAW IN 0
XHP IN FILTER_RAW VPLUS VMINUS ZERO AE067_SCH107 PARAMS: SCALE=1
.ENDS AE067_POST_RAW

.SUBCKT AE067_SCH104 IN OUT VPLUS VMINUS ZERO
XBUF IN BUF VPLUS VMINUS BUF SHELLAC_OPA1656
RISO BUF OUT 100
.ENDS AE067_SCH104

.MODEL AE067_SW SW(Ron=0.01 Roff=1e12 Vt=0.5 Vh=0)
