* Project Shellac AE-069 RUN06 SCH108 qualification model.
* Nominal RUN/MUTE state is RUN.  Phantom-fault behaviour is explicitly NOT RUN06.
* Ferrites use transparent R-L engineering brackets only.
*
* THAT1646 wrapper pin order:
*   OUTM SNSM GND IN VMINUS VPLUS SNSP OUTP

.SUBCKT AE069_SCH108 IN XLRP XLRM VPLUS VMINUS ZERO CHASSIS
+ PARAMS: RFB=0.02 LFB=95.49296055n
XDRV OUTM SNSM ZERO IN VMINUS VPLUS SNSP OUTP SHELLAC_THAT1646

* Existing OUT-to-SNS non-polar common-mode coupling capacitors.
CSP OUTP SNSP 10u
CSM OUTM SNSM 10u

* Connector-side ferrite engineering brackets.
RFBP OUTP PFB {RFB}
LFBP PFB XLRP {LFB}
RFBM OUTM MFB {RFB}
LFBM MFB XLRM {LFB}

* Existing connector-side RF shunts.
CRFIP XLRP CHASSIS 100p
CRFIM XLRM CHASSIS 100p

* Existing S1G rail clamps; nominal RUN06 should keep them off.
DHP XLRP VPLUS s1g
DHM XLRM VPLUS s1g
DLP VMINUS XLRP s1g
DLM VMINUS XLRM s1g
.ENDS AE069_SCH108
