* Project Shellac AE-070 RUN07 small-signal AC surrogate for THAT1646/SCH108.
* Qualification-only model. NOT product-generator or hardware authority.
*
* Purpose:
* - avoid the confirmed vendor-macro operating-point composition failure when
*   THAT1646 Rev02 is coupled to the full upstream integrated chain;
* - preserve RUN07 small-signal AC input loading and output/load behaviour;
* - correlate against controlled AE-069 RUN06 vendor-macro AC evidence.
*
* Explicit exclusions:
* - DC offset / common-mode accuracy;
* - transient or capacitive-load stability;
* - distortion / THD;
* - clipping / overload / recovery;
* - switching behaviour;
* - phantom/fault behaviour.
*
* RIN=5k follows the controlled Shellac THAT1646 engineering model.
* GDIFF_OPEN and RDRV are fitted AC-surrogate parameters chosen to reproduce
* AE-069 differential load behaviour. RDRV is NOT a hardware output-impedance
* specification and does not supersede the project 50-ohm/leg engineering data.
.SUBCKT AE070_SCH108_AC_SURROGATE IN XLRP XLRM VPLUS VMINUS ZERO CHASSIS
+ PARAMS: RFB=0.02 LFB=95.49296055n

RIN IN ZERO 5k

* Fitted open-circuit differential gain = 1.98791389931215 V/V.
* Symmetric legs each carry half that gain.
EPLUS NDRV_P ZERO IN ZERO 0.993956949656075
EMINUS NDRV_M ZERO IN ZERO -0.993956949656075

* Fitted internal small-signal resistance per leg. External ferrite DCR is
* added separately below. This is a behavioural fit, not hardware authority.
RDRV_P NDRV_P OUTP 24.8457461554223
RDRV_M NDRV_M OUTM 24.8457461554223

RFBP OUTP PFB {RFB}
LFBP PFB XLRP {LFB}
RFBM OUTM MFB {RFB}
LFBM MFB XLRM {LFB}

CRFIP XLRP CHASSIS 100p
CRFIM XLRM CHASSIS 100p

DHP XLRP VPLUS s1g
DHM XLRM VPLUS s1g
DLP VMINUS XLRP s1g
DLM VMINUS XLRM s1g
.ENDS AE070_SCH108_AC_SURROGATE
