* Project Shellac AE-066 qualification-only models.
* These parameterised subcircuits implement selected-next AE-042 / AE-043 intent
* for simulation. They do NOT migrate the live product generator or CAD.

.SUBCKT SHELLAC_SCH101_AE066 INP INM OUT VPLUS VMINUS ZERO CHASSIS PARAMS: RFPROG=1T RGPROG=1T CDIFF=1e-18
RINP INP INP_F 100
RINM INM INM_F 100
RLP INP_F ZERO 23.7k
RLM INM_F ZERO 23.7k
CCMP INP_F CHASSIS 47p
CCMM INM_F CHASSIS 47p
CDIFFLOAD INP_F INM_F {CDIFF}

XGP INP_F FBP VPLUS VMINUS GP_OUT SHELLAC_OPA1656
RGP FBP ZERO 1k
RGP_PROG FBP ZERO {RGPROG}
RFP GP_OUT FBP 999
RFP_PROG GP_OUT FBP {RFPROG}

XGM INM_F FBM VPLUS VMINUS GM_OUT SHELLAC_OPA1656
RGM FBM ZERO 1k
RGM_PROG FBM ZERO {RGPROG}
RFM GM_OUT FBM 999
RFM_PROG GM_OUT FBM {RFPROG}

XRN MSUM GM_OUT GP_OUT PSUM ZERO PSUM MSUM OUT NC101 SHELLAC_LT5400_7
XCV PSUM MSUM VPLUS VMINUS OUT SHELLAC_OPA1656
.ENDS SHELLAC_SCH101_AE066

* Non-flat bass state: fixed RF/RG plus selected RS+C feedback branch.
* CT is the aggregate selected treble capacitance; CT=1e-18 approximates OPEN.
.SUBCKT SHELLAC_SCH103_EQ_AE066 IN LFOUT OUT VPLUS VMINUS ZERO PARAMS: RS=8.2k CB=29.4n CT=100n
XLF IN LFFB VPLUS VMINUS LFOUT SHELLAC_OPA1612
RLF_F LFOUT LFFB 100k
RLF_G LFFB ZERO 2.70k
RBASS LFOUT BC {RS}
CBASS BC LFFB {CB}
RTREB LFOUT TREB 750
CTREB TREB ZERO {CT}
XREC TREB RECFB VPLUS VMINUS OUT SHELLAC_OPA1612
RREC_F OUT RECFB 11k
RREC_G RECFB ZERO 10k
.ENDS SHELLAC_SCH103_EQ_AE066

* FLAT bass selector shorts LF output directly to the inverting feedback node.
.SUBCKT SHELLAC_SCH103_FLAT_AE066 IN LFOUT OUT VPLUS VMINUS ZERO PARAMS: CT=1e-18
XLF IN LFFB VPLUS VMINUS LFOUT SHELLAC_OPA1612
RLF_F LFOUT LFFB 100k
RLF_G LFFB ZERO 2.70k
VFLAT LFOUT LFFB 0
RTREB LFOUT TREB 750
CTREB TREB ZERO {CT}
XREC TREB RECFB VPLUS VMINUS OUT SHELLAC_OPA1612
RREC_F OUT RECFB 11k
RREC_G RECFB ZERO 10k
.ENDS SHELLAC_SCH103_FLAT_AE066
