* Project Shellac AE-068 RUN05 qualification model.
* SCH104/SCH105 selected architecture only; NOT product-generator authority.
*
* CPAR is a conservative lumped-equivalent selector/PCB parasitic bracket.
* It intentionally aggregates open-contact, adjacent-terminal and inter-pole
* coupling rather than claiming an exact A30403RNCB parasitic model.

.SUBCKT AE068_SCH104_PAIR LIN RIN BUFFERED_L BUFFERED_R MONO_AVG MONO_R_LEG VPLUS VMINUS ZERO
+ PARAMS: RMONOL=4700 RMONOR=4700
XLB LIN LBUF VPLUS VMINUS LBUF SHELLAC_OPA1656
RISO_L LBUF BUFFERED_L 100
RMONO_L LBUF MONO_AVG {RMONOL}
XRB RIN RBUF VPLUS VMINUS RBUF SHELLAC_OPA1656
RISO_R RBUF BUFFERED_R 100
RMONO_R RBUF MONO_R_LEG {RMONOR}
.ENDS AE068_SCH104_PAIR

.SUBCKT AE068_OUTBUF IN OUT VPLUS VMINUS ZERO PARAMS: RRET=2.2Meg
RRET IN ZERO {RRET}
XBUF IN BOUT VPLUS VMINUS BOUT SHELLAC_OPA1656
RISO BOUT OUT 100
.ENDS AE068_OUTBUF

* Conservative lumped open-contact / inter-pole capacitance network.
* Each mode subcircuit uses the same parasitic bracket.
.SUBCKT AE068_PARASITICS BL BR MAVG MRLEG LSEL RSEL PARAMS: CPAR=1e-18
C_ALR LSEL BR {CPAR}
C_ALM LSEL MAVG {CPAR}
C_BRL RSEL BL {CPAR}
C_BRM RSEL MAVG {CPAR}
C_AB  LSEL RSEL {CPAR}
C_PC  MRLEG MAVG {CPAR}
.ENDS AE068_PARASITICS

.SUBCKT AE068_MATRIX_DUAL_L BL BR MAVG MRLEG LOUT ROUT VPLUS VMINUS ZERO
+ PARAMS: RRET=2.2Meg CPAR=1e-18
VPA LSEL BL 0
VPB RSEL BL 0
XPAR BL BR MAVG MRLEG LSEL RSEL AE068_PARASITICS CPAR={CPAR}
XOL LSEL LOUT VPLUS VMINUS ZERO AE068_OUTBUF RRET={RRET}
XOR RSEL ROUT VPLUS VMINUS ZERO AE068_OUTBUF RRET={RRET}
.ENDS AE068_MATRIX_DUAL_L

.SUBCKT AE068_MATRIX_STEREO BL BR MAVG MRLEG LOUT ROUT VPLUS VMINUS ZERO
+ PARAMS: RRET=2.2Meg CPAR=1e-18
VPA LSEL BL 0
VPB RSEL BR 0
XPAR BL BR MAVG MRLEG LSEL RSEL AE068_PARASITICS CPAR={CPAR}
XOL LSEL LOUT VPLUS VMINUS ZERO AE068_OUTBUF RRET={RRET}
XOR RSEL ROUT VPLUS VMINUS ZERO AE068_OUTBUF RRET={RRET}
.ENDS AE068_MATRIX_STEREO

.SUBCKT AE068_MATRIX_MONO BL BR MAVG MRLEG LOUT ROUT VPLUS VMINUS ZERO
+ PARAMS: RRET=2.2Meg CPAR=1e-18
VPC MRLEG MAVG 0
VPA LSEL MAVG 0
VPB RSEL MAVG 0
XPAR BL BR MAVG MRLEG LSEL RSEL AE068_PARASITICS CPAR={CPAR}
XOL LSEL LOUT VPLUS VMINUS ZERO AE068_OUTBUF RRET={RRET}
XOR RSEL ROUT VPLUS VMINUS ZERO AE068_OUTBUF RRET={RRET}
.ENDS AE068_MATRIX_MONO

.SUBCKT AE068_MATRIX_DUAL_R BL BR MAVG MRLEG LOUT ROUT VPLUS VMINUS ZERO
+ PARAMS: RRET=2.2Meg CPAR=1e-18
VPA LSEL BR 0
VPB RSEL BR 0
XPAR BL BR MAVG MRLEG LSEL RSEL AE068_PARASITICS CPAR={CPAR}
XOL LSEL LOUT VPLUS VMINUS ZERO AE068_OUTBUF RRET={RRET}
XOR RSEL ROUT VPLUS VMINUS ZERO AE068_OUTBUF RRET={RRET}
.ENDS AE068_MATRIX_DUAL_R
