* Project Shellac RUN00 support include
* Project-owned sanity include; not a vendor/reference macro-model.
.subckt SHELLAC_RUN00_DIV IN OUT RETURN PARAMS: RLOAD=10k
R1 IN OUT {RLOAD}
R2 OUT RETURN {RLOAD}
.ends SHELLAC_RUN00_DIV
